US09303065B2
38A. 5-(Benzyloxy)-2,2-dimethyl-4H-benzo[d][1,3]dioxin-4-one
A solution of 5-hydroxy-2,2-dimethyl-4H-benzo[d][1,3]dioxin-4-one (6.00 g, 30.9 mmol) (Hadfield, A. et al., Synthetic Communications, 24(7): 1025-1028 (1994)) in N,N-dimethylformamide (35 mL) was treated with powdered anhydrous potassium carbonate (5.15 g, 37.26 mmol) added all at once. The resulting mixture was stirred in vacuo for 10 min. and then flushed with nitrogen. The reaction flask was placed in a water bath (22° C.) and treated with benzyl bromide (5.55 g, 32.16 mmol) added dropwise over 15 min. The resulting mixture was then stirred at 22° C. for 18 h. The solid formed was filtered and washed with N,N-dimethylformamide. The filtrate was evaporated in vacuo and the residual oil was diluted with ethyl acetate (300 mL), washed with cold 0.1 N hydrochloric acid, saturated sodium bicarbonate and brine. After drying over anhydrous magnesium sulfate, evaporation of the solvent gave a thick syrup. Chromatography on silica gel (4×13 cm, elution toluene-ethyl acetate 0-5%) gave 8.78 g (100% yield) of the title material as a white solid. LC (Method A): 1.982 min. 1H NMR (CDCl3, 600 MHz) δ ppm: 1.69 (s, 6H), 5.23 (s, 2H), 6.53 (d, J=8.2 Hz, 1H), 6.62 (d, J=8.4 Hz, 1H), 7.24-7.3 (m, 1H), 7.34-7.4 (m, 3H), 7.52 (broad d, J=7.4 Hz 2H).

reactant | 5-hydroxy-2,2-dimethyl-4H-benzo[d][1,3]dioxin-4-one | 30.9 mmol, 6.00 g | OC1=CC=CC=2OC(OC(C21)=O)(C)C | C10H10O4
reactant | potassium carbonate | 37.26 mmol, 5.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 32.16 mmol, 5.55 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | 5-(Benzyloxy)-2,2-dimethyl-4H-benzo[d][1,3]dioxin-4-one | 8.78 g, 100% yield | C(C1=CC=CC=C1)OC1=CC=CC=2OC(OC(C21)=O)(C)C | C17H16O4
